US07303852B2
Synthesis of 2-Oxo-2-phenylethylthiacyclopentaniumbis(perfluoroethylsulfonyl)imide
When 9.5 g (0.025 moles) of bis(perfluoroethylsulfonyl)imide was added to the aforementioned aqueous solution of 2-oxo-2-phenylethylthiacyclopentaniumbromide, oily matter was separated therefrom. This oily matter was extracted by 1000 g of dichloromethane. An organic layer was washed with 50 g of water four times, and the organic layer was concentrated by a rotary evaporator, thus obtaining 15 g of oily substance. The 50 g of diethyl ether was added to this oily substance for crystallization. Resultant crystals were subjected to filtration under vacuum, and drying. As a result, 13 g of white crystals was obtained. The yield was 66%.

reactant | bis(perfluoroethylsulfonyl)imide | 0.025 moles, 9.5 g | [N-](S(=O)(=O)C(F)(F)C(F)(F)F)S(=O)(=O)C(F)(F)C(F)(F)F
reactant | 2-oxo-2-phenylethylthiacyclopentaniumbromide | [Br-].O=C1[S+](CCC1)CCC1=CC=CC=C1
solvent | diethyl ether | 50 g | C(C)OCC | C4H10O
product | 2-Oxo-2-phenylethylthiacyclopentaniumbis(perfluoroethylsulfonyl)imide | 13 g, yield was 66% | [N-](S(=O)(=O)C(F)(F)C(F)(F)F)S(=O)(=O)C(F)(F)C(F)(F)F.O=C1[S+](CCC1)CCC1=CC=CC=C1 | InChI=1S/C12H15OS.C4F10NO4S2/c13-12-7-4-9-14(12)10-8-11-5-2-1-3-6-11;5-1(6,7)3(11,12)20(16,17)15-21(18,19)4(13,14)2(8,9)10/h1-3,5-6H,4,7-10H2;/q+1;-1
